US07279491B2
4-{1,4′}Bipiperidinyl-1′-yl-benzaldehyde
A mixture of 4-fluorobenzaldehyde (1 mL), {1,4′}bipiperidinyl (829.6 mg), and potassium carbonate (0.72 g) in DMF (3 mL) was heated to 100° C. for 6 h. The cooled reaction mixture was poured into water (200 mL) and then extracted with DCM. Removal of the solvent and chromatography of the residue on silica gel (1-7% 2 M methanolic ammonia/DCM) gave the title compound (838.3 mg).

reactant | 4-fluorobenzaldehyde | 1 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | {1,4′}bipiperidinyl | 829.6 mg | N1(CCCCC1)C1CCNCC1 | C10H20N2
reactant | potassium carbonate | 0.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 200 mL | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-{1,4′}Bipiperidinyl-1′-yl-benzaldehyde | 838.3 mg | N1(CCCCC1)C1CCN(CC1)C1=CC=C(C=O)C=C1 | C17H24N2O
